US06518257B1
(iii) Production of 1-(4′-fluoro[1,1′-biphenyl]-4-yl)-1-(1H-imidazol-4-yl)-2-methyl-1-propanol
A solution (75 ml) of 1-(4′-fluoro[1,1′-biphenyl]-4-yl)-1-(1-trityl-1H-imidazol-4-yl)-2-methyl-1-propanol (3.12 g) and pyridine hydrochloride (1.11 g) in methanol was stirred at 60° C. for 3.5 h. The solvent was evaporated from the reaction mixture under reduced pressure and the residue was diluted with ethyl acetate. Saturated aqueous sodium hydrogen carbonate was added, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried. The solvent was evaporated under reduced pressure and the residue was purified by column chomatography (eluent, hexane:ethyl acetate=2:1→1:5) and recrystallized from ethyl acetate-hexane to give the title compound (1.34 g) as colorless needle crystals.

reactant | 1-(4′-fluoro[1,1′-biphenyl]-4-yl)-1-(1-trityl-1H-imidazol-4-yl)-2-methyl-1-propanol | 75 ml, 3.12 g | FC1=CC=C(C=C1)C1=CC=C(C=C1)C(C(C)C)(O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C38H33FN2O
reactant | pyridine hydrochloride | 1.11 g | Cl.N1=CC=CC=C1
solvent | methanol | CO | CH4O
product | 1-(4′-fluoro[1,1′-biphenyl]-4-yl)-1-(1H-imidazol-4-yl)-2-methyl-1-propanol | 1.34 g | FC1=CC=C(C=C1)C1=CC=C(C=C1)C(C(C)C)(O)C=1N=CNC1 | C19H19FN2O
